US06350762B1
3) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-5-nitro-1,4-dihydropyridine-3-carboxylic acid (3-phenyl-2-propene-1-yl)amide
93 mg (0.30 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-5-nitro-1,4-dihydropyridine-3-carboxylic acid, 100 mg (0.75 mmol) of cinnamylamine, 138 mg (0.54 mmol) of 2-chloro-1-methylpyridinium iodide and 0.15 ml (1.08 mmol) of triethylamine were stirred in 5 ml of DMF at room temperature for 2 days. DMF was evaporated under reduced pressure. Ethyl acetate was added to the reaction mixture. After washing with 1 N hydrochloric acid, the organic layer was dried over anhydrous sodium sulfate. After the concentration under reduced pressure, the residue was purified by the silica gel chromatography (hexane/ethyl cetate=4/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2,6-dimethyl-5-nitro-1,4-dihydropyridine-3-carboxylic acid | 0.30 mmol, 93 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1[N+](=O)[O-])C)C)C(=O)O | C14H13ClN2O4
reactant | cinnamylamine | 0.75 mmol, 100 mg | C(C=CC1=CC=CC=C1)N | C9H11N
reactant | 2-chloro-1-methylpyridinium iodide | 0.54 mmol, 138 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 1.08 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-2,6-dimethyl-5-nitro-1,4-dihydropyridine-3-carboxylic acid (3-phenyl-2-propene-1-yl)amide | C1(=CC=CC=C1)C=CCNC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)[N+](=O)[O-])C)C | C23H22ClN3O3
